US06319932B1
A solution of the hydrochloride salt of (4S, 5R)-4-(3,4-difluorophenyl)-3-{3-[4-(4-fluorophenyl)piperidin-1-yl]propylcarbamoyl}-2-oxo-oxazolidine-5-carboxylic acid methyl ester (300 mg, 0.54 mmol) in tetrahydrofuran (5 mL) was cooled to 0° C. and treated with 0.5M aqueous lithium hydroxide solution (2.2 mL, 1.1 mmol). The reaction mixture was stirred at 0° C. 20 minutes when 1N aqueous HCl was added dropwise until the pH of the reaction mixture reached 6. The volatile organics were removed under reduced pressure and the resulting aqueous solution extracted with dichloromethane (3×50 mL). The combined organics were dried over sodium sulfate, filtered and the volatiles removed to provide (4S, 5R)-4-(3,4-difluorophenyl)-3-{3-[4-(4-fluorophenyl)piperidin-1-yl]propylcarbamoyl}-2-oxo-oxazolidine-5-carboxylic acid as a foam.

reactant | (4S, 5R)-4-(3,4-difluorophenyl)-3-{3-[4-(4-fluorophenyl)piperidin-1-yl]propylcarbamoyl}-2-oxo-oxazolidine-5-carboxylic acid methyl ester | 0.54 mmol, 300 mg | COC(=O)[C@H]1[C@@H](N(C(O1)=O)C(NCCCN1CCC(CC1)C1=CC=C(C=C1)F)=O)C1=CC(=C(C=C1)F)F | C26H28F3N3O5
reactant | lithium hydroxide | 1.1 mmol, 0.5M, 2.2 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (4S, 5R)-4-(3,4-difluorophenyl)-3-{3-[4-(4-fluorophenyl)piperidin-1-yl]propylcarbamoyl}-2-oxo-oxazolidine-5-carboxylic acid | FC=1C=C(C=CC1F)[C@@H]1N(C(O[C@H]1C(=O)O)=O)C(NCCCN1CCC(CC1)C1=CC=C(C=C1)F)=O | C25H26F3N3O5
